US04320065
A solution of 1 mmol of pentacarbonyl[methoxy(phenyl)carbene]chromium and 1.1 mmol of 6,10,14,18-tetramethyl-5-nonadecen-2-yne from phytyl bromide (isomer ratio E/Z=90/10) in 5 ml of dibutyl ether is heated to 55° C. under nitrogen for 1 hour. After the removal of the solvent, the 1-naphthol-tricarbonyl-chromium complex can be isolated (yield 95%) by chromatography on silica gel at -30° C. with methylene chloride/pentane (2/1), or directly oxidised to the quinone after addition of 10 ml of ether by one-hours stirring with 1.5 mmol of silver (I) oxide in the presence of MgSO4. The obtained mixture is filtered, the solvent removed and the residue purified by chromatography at 10° C. on silica gel with pentane/ether (100/1). There is obtained vitamin K1(20) as a light yellow oil in a total yield of 56%.

reactant | 6,10,14,18-tetramethyl-5-nonadecen-2-yne | 1.1 mmol | CC(=CCC#CC)CCCC(CCCC(CCCC(C)C)C)C | C23H42
reactant | phytyl bromide | C(\C=C(/C)\CCC[C@H](C)CCC[C@H](C)CCCC(C)C)Br | C20H39Br
reactant | ether | 10 ml | CCOCC | C4H10O
reactant | MgSO4 | [O-]S(=O)(=O)[O-].[Mg+2]
solvent | dibutyl ether | 5 ml | C(CCC)OCCCC | C8H18O
catalyst | pentacarbonyl[methoxy(phenyl)carbene]chromium | 1 mmol | C(=O)=[Cr](=C(C1=CC=CC=C1)OC)(=C=O)(=C=O)(=C=O)=C=O
catalyst | silver (I) oxide | 1.5 mmol | [Ag-]=O
product | vitamin K1(20) | yield of 56% | CC1=C(C(=O)C2=CC=CC=C2C1=O)C/C=C(\C)/CCCC(C)CCCC(C)CCCC(C)C | C31H46O2
